US06599902B2
Synthesis of 3-[1-[4-((2S,4R)-2-Cyclopropylaminomethyl-4-hydroxy-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (250 mg, 0.5 mmol), HOBt (81 mg, 1.2 eq.), EDC (115 mg, 1.2 eq.), TEA (0.17 mL, 2.5 eq.) and (3R, 5S)-5-cyclopropylaminomethyl-pyrrolidin-3-ol (312 mg, 4 eq.) in DMF (10 mL) was stirred at rt for overnight, followed by heating at 45° C. for 5 hours. The reaction was concentrated, washed with water, sodium bicarbonate and brine, dried and concentrated. The residue was purified on a silica gel column to give the titled compound.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.5 mmol, 250 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | HOBt | 81 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 115 mg, 1.2 eq.
reactant | (3R, 5S)-5-cyclopropylaminomethyl-pyrrolidin-3-ol | 312 mg, 4 eq. | C1(CC1)NC[C@@H]1C[C@H](CN1)O | C8H16N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[1-[4-((2S,4R)-2-Cyclopropylaminomethyl-4-hydroxy-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | C1(CC1)NC[C@H]1N(C[C@@H](C1)O)C(=O)C=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C31H32Cl2N4O5S
